US09079922B2
10.1. 7-chloro-1-cyclopropyl-4-oxo-1,4-dihydro-[1,8]naphthyridine-3-carboxylic acid
A suspension of 7-chloro-1-cyclopropyl-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid ethyl ester (prepared according to EP 607825; 500 mg) in 6N HCl (6 ml) was stirred at 100° C. for 30 min. The reaction mixture was allowed to reach rt and the resulting crystals were collected by filtration and sequentially washed with water and MeOH, affording a beige solid.

reactant | 7-chloro-1-cyclopropyl-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid ethyl ester | 500 mg | C(C)OC(=O)C1=CN(C2=NC(=CC=C2C1=O)Cl)C1CC1 | C14H13ClN2O3
solvent | HCl | 6N, 6 ml | Cl | ClH
product | 7-chloro-1-cyclopropyl-4-oxo-1,4-dihydro-[1,8]naphthyridine-3-carboxylic acid | ClC1=CC=C2C(C(=CN(C2=N1)C1CC1)C(=O)O)=O | C12H9ClN2O3
